US09079866B2
5-[3-Fluoro-2′-(2,2,2-trifluoroethoxy)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing what 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-(2,2,2-trifluoroethoxy)bromobenzene. MS (ESI): mass calcd. for C18H13F4N3O, 363.10; m/z found, 363.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.39 (s, 1H), 8.03 (s, 1H), 7.91 (m, 1H), 7.56-7.34 (m, 4H), 7.25 (d, J=8.0, 1H), 7.16 (m, 1H), 6.71 (s, 2H), 4.82 (q, J=8.8, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-(2,2,2-trifluoroethoxy)bromobenzene | FC(COC1=C(C=CC=C1)Br)(F)F | C8H6BrF3O
product | 5-[3-Fluoro-2′-(2,2,2-trifluoroethoxy)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)OCC(F)(F)F | C18H13F4N3O
